US07790720B2
A solution of 4-(chloromethyl)-2-[4-(3-chloropropoxy)-2-fluorophenyl]-1,3-oxazole i84 (0.23 g, 0.75 mmol, 1 eq) in acetonitrile (10 ml) is treated with piperidine (0.14 ml, 1.5 mmol, 2 eq). The mixture is stirred at room temperature for 24 h and concentrated under vacuum. The residue is taken up in dichloromethane and washed with water. The organic layer is dried over magnesium sulfate and concentrated under reduced pressure to give 0.20 g of 1-({2-[4-(3-chloropropoxy)-2-fluorophenyl]-1,3-oxazol-4-yl}methyl)piperidine i86.

reactant | 4-(chloromethyl)-2-[4-(3-chloropropoxy)-2-fluorophenyl]-1,3-oxazole | ClCC=1N=C(OC1)C1=C(C=C(C=C1)OCCCCl)F | C13H12Cl2FNO2
reactant | piperidine | 1.5 mmol, 0.14 ml, 2 eq | N1CCCCC1 | C5H11N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1-({2-[4-(3-chloropropoxy)-2-fluorophenyl]-1,3-oxazol-4-yl}methyl)piperidine | 0.20 g, Yield: 74% | ClCCCOC1=CC(=C(C=C1)C=1OC=C(N1)CN1CCCCC1)F | C18H22ClFN2O2
